US07816557B2
Racemic 4-(Cyclopropyl-hydroxy-methyl)-benzoic acid methyl ester
This compound is made from 4-formyl-benzoic acid methyl ester and Cyclopropyl magnesium bromide following the general method exemplified in Preparation 1.

reactant | 4-formyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | Cyclopropyl magnesium bromide | C1(CC1)[Mg]Br
product | Racemic 4-(Cyclopropyl-hydroxy-methyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(O)C1CC1)=O | C12H14O3
